US07223753B2
3-Chloro-6-thien-3-yl-pyridazine hydrochloric acid salt (Intermediate Compound)
A mixture of 3-bromo-6-thien-3-yl-pyridazine (1.39 g, 5.8 mmol) and conc. hydrochloric acid (25 ml) was stirred at reflux for 4.5 hours. The reaction mixture was evaporated and the product was isolated in quantitative yield (1.35 g, 5.8 mmol).

reactant | 3-bromo-6-thien-3-yl-pyridazine | 5.8 mmol, 1.39 g | BrC=1N=NC(=CC1)C1=CSC=C1 | C8H5BrN2S
reactant | hydrochloric acid | 25 ml | Cl | ClH
product | 3-Chloro-6-thien-3-yl-pyridazine hydrochloric acid salt | quantitative yield | Cl.ClC=1N=NC(=CC1)C1=CSC=C1 | InChI=1S/C8H5ClN2S.ClH/c9-8-2-1-7(10-11-8)6-3-4-12-5-6;/h1-5H;1H
